US08802661B2
Preparation of (1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid. Intermediate 12
To a solution of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (0.2 g, 0.302 mmol) in ethanol (5 mL), 1,4-dioxane (7 mL), and acetic acid (0.5 mL, 8.73 mmol) was added Pd/C (10% by wt.) (0.1 g, 0.094 mmol). The mixture was flushed with N2 and was put on the Parr shaker under 30 psi H2. After 2 h, the reaction was checked by 1H NMR. The benzyl group had been removed, but the alkene still remained. The mixture was again flushed with N2. An additional 50 mg of 10% Pd/C was added and the mixture was pressurized to 40 psi H2. After stirring the mixture overnight, it reaction was removed from the Parr shaker and the palladium catalyst was removed by filtration. The filtrate was concentrated under reduced pressure to give the expected product, (1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (0.174 g, 100% yield), as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.91 (d, J=8.24 Hz, 2H), 7.22 (d, J=8.55 Hz, 2H), 3.89 (s, 3H), 2.39 (dd, J=13.12, 3.05 Hz, 1H), 2.19-2.29 (m, 3H), 2.01-2.13 (m, 1H), 0.99 (s, 3H), 0.96 (s, 3H), 0.95 (s, 3H), 0.86 (d, J=6.71 Hz, 3H), 0.79-1.92 (m, 22H), 0.76 (d, J=6.71 Hz, 3H), 0.75 (s, 3H), 0.68 (s, 3H).

reactant | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 0.302 mmol, 0.2 g | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C45H58O4
reactant | acetic acid | 8.73 mmol, 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 0.094 mmol, 0.1 g | [Pd] | Pd
product | (1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 0.174 g, 100% yield | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC[C@@H](C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C=C2)C(=O)OC)C)C(=O)O | C38H56O4
